US06770637B2
2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(3-hydroxy-prop-1-ynyl)-4-o-tolyl-pyridin-3-yl]-N-methyl-isobutyramide
To a solution of 167 mg (0.257 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-{6-[3-(tert-butyl-dimethyl-silanyloxy)-prop-1-ynyl]-4-o-tolyl-pyridin-3-yl}-N-methyl-isobutyramide in 1.5 ml tetrahydrofuran a 1 M solution of tetrabutylammonium fluoride in tetrahydrofuran was added at room temperature. After stirring for 0.5 h water was added, followed by extraction with four portions of ethyl acetate. The combined organic extracts were dried with sodium sulfate and concentrated. Column chromatography afforded 82 mg (60%) of the title compound as a brown viscous oil.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-{6-[3-(tert-butyl-dimethyl-silanyloxy)-prop-1-ynyl]-4-o-tolyl-pyridin-3-yl}-N-methyl-isobutyramide | 0.257 mmol, 167 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)C)C#CCO[Si](C)(C)C(C)(C)C)(C)C)(F)F | C34H38F6N2O2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(3-hydroxy-prop-1-ynyl)-4-o-tolyl-pyridin-3-yl]-N-methyl-isobutyramide | 82 mg, 60% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)C)C#CCO)(C)C)(F)F | C28H24F6N2O2
